US06720351B2
Alternative A. To a mixture of ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate (420 g), from step (a) or commercial sources, and 10% palladium on carbon catalyst (50% wet) (42 g) in ethanol (4200 mL) was added a solution of ammonium formate (541.5 g) in demineralized water (840 mL) at between 25-35° C. over 3 hours. The mixture was stirred for 18 hours at 20° C., and then filtered, washing the solids with ethanol (2100 mL). The combined filtrate and washings were concentrated to 840 mL under vacuum at about 20° C. The resulting slurry was granulated at 5° C., filtered, washed with chilled ethanol (420 mL), and dried to give product ethyl 5-amino-1-methyl-1H-indole-2-carboxylate (316.5 g, 86%).

reactant | ethyl 1-methyl-5-nitro-1H-indole-2-carboxylate | 420 g | CN1C(=CC2=CC(=CC=C12)[N+](=O)[O-])C(=O)OCC | C12H12N2O4
reactant | ammonium formate | 541.5 g | C(=O)[O-].[NH4+]
catalyst | palladium on carbon | 42 g | [Pd] | Pd
solvent | ethanol | 4200 mL | C(C)O | C2H6O
solvent | water | 840 mL | O | H2O
product | ethyl 5-amino-1-methyl-1H-indole-2-carboxylate | 316.5 g, 86% | NC=1C=C2C=C(N(C2=CC1)C)C(=O)OCC | C12H14N2O2
